US05756528
Step B: Preparation of N-Benzyl-N-methyl-3,3-diphenylpropylamine
To a solution of N-benzyl-3,3-diphenylpropylamine (1.29 g, 4.30 mmol) and 30% aq. formaldehyde (1.50 ml, 20 mmol) in CH3CN:H2O (2:1, v/v, 40 ml) was added sodium cyanoborohydride (563 mg, 8.96 mmol) at 0° C. The reaction was allowed to warm to room temperature and stirred for 90 min. The organic solvent was evaporated, and the residue diluted with water and extracted with CH2Cl2. The organic extracts were washed with brine, dried (Na2SO4) and the solvent evaporated in vacuo to afford the title compound as an oil.

reactant | N-benzyl-3,3-diphenylpropylamine | 4.30 mmol, 1.29 g | C(C1=CC=CC=C1)NCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C22H23N
reactant | formaldehyde | 20 mmol, 1.50 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 8.96 mmol, 563 mg | C(#N)[BH3-].[Na+]
solvent | CH3CN H2O | 40 ml | CC#N.O
product | N-Benzyl-N-methyl-3,3-diphenylpropylamine | C(C1=CC=CC=C1)N(C)CCC(C1=CC=CC=C1)C1=CC=CC=C1 | C23H25N
